* E:\IC_MC1445L(2)\IC_MC1445L(2).cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 06/04/25 20:41:15

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
X1  GND Net-_R1-Pad1_ GND GND GND OUT_-_ OUT_+_ Net-_X1-Pad8_ Net-_X1-Pad9_ MC1445L		
v1  Net-_R1-Pad1_ GND sine		
R1  Net-_R1-Pad1_ GND 51		
v2  Net-_X1-Pad8_ GND DC		
v3  Net-_X1-Pad9_ GND DC		
U1  OUT_-_ plot_db		
U2  OUT_+_ plot_db		
R2  GND OUT_-_ 2.5k		
R3  OUT_+_ GND 2.5k		

.end
